US04520193
1-Dimethylamino-1-methoxyethylene (218 g) is added dropwise, in the course of 55 minutes, to a solution of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (345 g) in anhydrous dimethylformamide (1,600 cc) at 80° C. This yields a solution of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylaminoprop-1-en-1-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene, which is poured into a stirred mixture of distilled water (2 liters), ice (2 kg) and ethyl acetate (2.5 liters). The organic phase is decanted, washed with distilled water (3×1 liter), dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 30° C. The residue is divided into 2 equal parts which are each chromatographed separately on a column of Merck silica gel (0.06-0.2) (1,500 g) (diameter of the column: 8.5 cm; height: 70 cm). Each column is eluted with a 23/77 (by volume) ethyl acetate/cyclohexane mixture (20 liters), 1 liter fractions being collected. Fractions 7 to 15 from each column are concentrated to dryness at 30° C. under reduced pressure (20 mm Hg; 2.7 kPa). This yields 3-acetonyl-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (149 g) in the form of a hard yellow foam.

reactant | 1-Dimethylamino-1-methoxyethylene | 218 g | CN(C(=C)OC)C | C5H11NO
reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 345 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C)NC(=O)OC(C)(C)C)=O | C26H28N2O5S
solvent | dimethylformamide | 1,600 cc | CN(C=O)C | C3H7NO
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylaminoprop-1-en-1-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=C(C)N(C)C)NC(=O)OC(C)(C)C)=O | C30H35N3O5S
